US06248755B1
Step A: 1-Benzoyl-4-(2-phenyl-thiazol-5-yl)-piperidine
To 150 mg of 2-bromo-1-(1-benzoyl-4-piperidyl)-1-ethanone in 6 ml of EtOH was added 66 mg of thiobenzamide. The reaction was stirred at 80° C. for 2 hours. The solvent was evaporated under reduced pressure. The residue was purified by flash chromatography with 50% EtOAc in hexane to give 55 mg of the title compound.

reactant | 2-bromo-1-(1-benzoyl-4-piperidyl)-1-ethanone | 150 mg | BrCC(=O)C1CCN(CC1)C(C1=CC=CC=C1)=O | C14H16BrNO2
reactant | thiobenzamide | 66 mg | C(C1=CC=CC=C1)(=S)N | C7H7NS
solvent | EtOH | 6 ml | CCO | C2H6O
product | 1-Benzoyl-4-(2-phenyl-thiazol-5-yl)-piperidine | 55 mg | C(C1=CC=CC=C1)(=O)N1CCC(CC1)C1=CN=C(S1)C1=CC=CC=C1 | C21H20N2OS
